US09216999B2
1-(Piperidin-3-yl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine
Benzyl 3-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidine-1-carboxylate (25.0 mg, 0.0664 mmol) in ethanol was stirred with 5% palladium-carbon (10 mg) under a hydrogen atmosphere at 50° C. for 2.5 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound as a light brown solid (16.1 mg, yield quantitative).

reactant | Benzyl 3-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)piperidine-1-carboxylate | 0.0664 mmol, 25.0 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)C3CN(CCC3)C(=O)OCC3=CC=CC=C3 | C20H20N6O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | 1-(Piperidin-3-yl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | 16.1 mg | N1CC(CCC1)C=1N=NN2C=NC3=C(C21)C=CN3 | C12H14N6
